** sch_path: /home/guru/Projects/sky130_lvt_char/xschem/pmos/pmos_lvt_char.sch
**.subckt pmos_lvt_char
V1 net1 0 0.9
V2 net2 0 1.8
XM1 net3 net1 net2 net2 sky130_fd_pr__pfet_01v8_lvt L={length} W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1
V3 net3 0 0.9
**** begin user architecture code


*.include gm_id_tt.sp
*.include gm_id_ss.sp
.include gm_id_ff.sp


**** end user architecture code
**.ends
.end
